US04791200
4-[3-(1H-Imidazol-1-yl)propoxyphenyl]-2-phenylthiazole
By substituting m-hydroxyacetophenone for the p-hydroxyacetophenone, p-hydroxypropiophenone or p-hydroxybutyrophenone of Examples 1-26, the corresponding 4-(3-aminoalkoxyphenyl)-2-substituted thiazoles are produced. For example, 4-(3-dibutylaminopropoxyphenyl)-2-phenylthiazole, 4-[3-(4-methylpiperazol-1-yl)propoxyphenyl]-2-phenylthiazole and 2-(4-chlorophenyl)-4-(3-dibutylaminopropoxyphenyl)thiazole are produced by using m-hydroxyacetophenone in Examples 1, 6 and 16, respectively.

reactant | 4-(3-dibutylaminopropoxyphenyl)-2-phenylthiazole | C(CCC)N(CCCOC1=C(C=CC=C1)C=1N=C(SC1)C1=CC=CC=C1)CCCC | C26H34N2OS
reactant | 2-(4-chlorophenyl)-4-(3-dibutylaminopropoxyphenyl)thiazole | ClC1=CC=C(C=C1)C=1SC=C(N1)C1=C(C=CC=C1)OCCCN(CCCC)CCCC | C26H33ClN2OS
product | 4-[3-(1H-Imidazol-1-yl)propoxyphenyl]-2-phenylthiazole | N1(C=NC=C1)CCCOC1=C(C=CC=C1)C=1N=C(SC1)C1=CC=CC=C1 | C21H19N3OS
